US07915443B2
(S)-5-(1H-indol-6-ylethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 443, (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide (150 mg, 0.42 mmol) and 6-bromoindole (90.7 mg, 0.46 mmol) were reacted to give the title compound (30 mg).

reactant | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-[(trimethylsilyl)ethynyl]nicotinamide | 0.42 mmol, 150 mg | C[S@@](=NC(C1=CN=CC(=C1)C#C[Si](C)(C)C)=O)(C1=CC=CC=C1)=O | C18H20N2O2SSi
reactant | 6-bromoindole | 0.46 mmol, 90.7 mg | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
product | (S)-5-(1H-indol-6-ylethynyl)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 30 mg | N1C=CC2=CC=C(C=C12)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C23H17N3O2S
